US05849920
2-Amino-5-chloro-6-methoxy-3-trifluoromethylpyridine
16.2 g (0.954 mol) of gaseous ammonia were injected into an autoclave containing 36.5 g (0.159 mol) of 3-chloro-6-fluoro-2-methoxy-5-trifluoromethylpyridine and 150 ml of ethanol and the mixture was then stirred for 15 hours at 110° C. After cooling and releasing the pressure, the reaction mixture was concentrated and the residue was partitioned in methylene chloride/water. After 0.4 g of insoluble matter had been separated off, the organic phase was separated off, and the aqueous phase was reextracted twice using methylene chloride. The organic extracts were dried and concentrated, giving 30.6 g (85% of theory) of the title compound as an oil. NMR (400 MHz, CDCl3) δ 7.6 pyr (1/s); 3.95 CH3O (3/s); 4.9 NH2 (2/s). After silica gel chromatography with methylene chloride, a further 33.2 g (72% of theory) of the title compound were obtained as a colorless oil of ηD24 =1.5140 (Table II, No. 2.001).

reactant | ammonia | 0.954 mol, 16.2 g | N | H3N
reactant | 3-chloro-6-fluoro-2-methoxy-5-trifluoromethylpyridine | 0.159 mol, 36.5 g | ClC=1C(=NC(=C(C1)C(F)(F)F)F)OC | C7H4ClF4NO
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 2-Amino-5-chloro-6-methoxy-3-trifluoromethylpyridine | NC1=NC(=C(C=C1C(F)(F)F)Cl)OC | C7H6ClF3N2O
